US06300363B1
Step 2. 3-Amino-2-benzoyl-6-chloro-1-(ethoxycarbonyl)indole
To a solution of 4-chloro-2-(ethoxycarbonylamino)benzonitrile (10.8 g) in DMF (50 ml) cooled to 0° C. was added sodium hydride (60% w/w dispersion in mineral oil, 2.0 g, 50 mmol). The mixture was stirred for 30 min at 0° C. and then 2-bromoacetophenone (9.9 g, 50 mmol) was carefully added. After stirring for an additional 15 h at 0° C., the mixture was poured into water (500 ml) and extracted with diethyl ether (500 ml×2). After drying (MgSO4) and removal of solvent, the crude product was purified by flash chromatography eluting with ethyl acetate/hexane (1:5) to afford 11.8 g (72%) of the title compound as a brown amorphous solid.

reactant | 4-chloro-2-(ethoxycarbonylamino)benzonitrile | 10.8 g | ClC1=CC(=C(C#N)C=C1)NC(=O)OCC | C10H9ClN2O2
reactant | sodium hydride | 50 mmol, 2.0 g | [H-].[Na+]
reactant | 2-bromoacetophenone | 50 mmol, 9.9 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | water | 500 ml | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-Amino-2-benzoyl-6-chloro-1-(ethoxycarbonyl)indole | 11.8 g, 72% | NC1=C(N(C2=CC(=CC=C12)Cl)C(=O)OCC)C(C1=CC=CC=C1)=O | C18H15ClN2O3
